US06353010B1
4-Hydroxybenzoxazole
2-Aminoresorcinol hydrochloride (2 g) and triethylchloroformate (4.5 ml) were heated to reflux under nitrogen for 3 h. After cooling to room temperature, the reaction mixture was poured into a mixture of water (70 ml) and ethanol (20 ml). The mixture was stirred vigorously for 30 minutes, then left to stand at room temperature overnight. The beige precipitate which formed was collected by filtration, and dried by azeotroping with toluene to give the title compound as a beige solid (1.2 g).

reactant | 2-Aminoresorcinol hydrochloride | 2 g | Cl.NC1=C(O)C=CC=C1O
reactant | water | 70 ml | O | H2O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Hydroxybenzoxazole | 1.2 g | OC1=CC=CC2=C1N=CO2 | C7H5NO2
